US09238644B2
(d) Methyl 1-(2-iodophenyl)cyclobutanecarboxylate (A53)
A solution of 1-(2-iodophenyl)cyclobutanecarboxylic acid A52 (425 mg, 1.41 mmol) in MeOH (25 mL) and conc. H2SO4 (1.0 mL) was stirred at 60° C. overnight. The volatiles were removed in vacuo and the resulting residue diluted in EtOAc (50 mL) and sat. soln. Na2CO3 (50 mL). The aqueous layer was extracted with EtOAc (3×50 mL), the combined organic fractions were dried (MgSO4) and the volatiles removed in vacuo to give the title compound A53 as a clear oil (361 mg, 81%). LCMS-A: rt 7.020 min; m/z 317 [M+H]+.

reactant | 1-(2-iodophenyl)cyclobutanecarboxylic acid | IC1=C(C=CC=C1)C1(CCC1)C(=O)O | C11H11IO2
reactant | H2SO4 | 1.0 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 25 mL | CO | CH4O
product | Methyl 1-(2-iodophenyl)cyclobutanecarboxylate | IC1=C(C=CC=C1)C1(CCC1)C(=O)OC | C12H13IO2
